US07342032B2
40 Part A; Ethyl-5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)thiazole-2-carboxylate (4.10 gram, 9.93 mmol) is suspended in methanol (75 mL). A solution of KOH (1.98 gram, 30 mmol) in water (75 mL) is added and the resulting mixture is heated at reflux temperature for 2 hours. The resulting yellow solution is allowed to attain room temperature, poured into water and acidified with 1N aqueous HCl to give a white precipitate. This precipitate is collected by filtration and twice washed with water. Drying in vacuo gives 5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)thiazole-2-carboxylic acid as a white solid (2.59 gram, 68% yield). 1H-NMR (200 MHz, DMSO-d6): δ 9.25 (s, 1H), 7.65-7.72 (m, 1H), 7.28-7.52 (m, 6H).

reactant | Ethyl-5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)thiazole-2-carboxylate | 9.93 mmol, 4.10 gram | C(C)OC(=O)C=1SC(=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C18H12Cl3NO2S
reactant | KOH | 30 mmol, 1.98 gram | [OH-].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 75 mL | CO | CH4O
solvent | water | 75 mL | O | H2O
product | 5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)thiazole-2-carboxylic acid | 2.59 gram, 68% yield | ClC1=CC=C(C=C1)C1=C(N=C(S1)C(=O)O)C1=C(C=C(C=C1)Cl)Cl | C16H8Cl3NO2S
